US04145362
Preparation of α-chloro-β-(2-chloro-5-trifluoromethylphenyl)propionaldehyde.
195.5 g (1 mole) of 2-chloro-5-trifluoromethylaniline are added to a mixture of 280 ml of concentrated HCl and 280 ml of acetic acid. After the mixture has been cooled to 0° C., 75 g of NaNO2 dissolved in 150 ml of water are slowly added to the mixture, the temperature being maintained between 0° and 3° C. At the same temperature, a mixture of 5 g of CaO and 60 g of acrolein dissolved in 250 ml of acetone is then introduced. A solution of 1 g of CuCl in 20 ml of concentrated HCl is then added; the temperature is maintained between 5° and 10° C. The evolution of nitrogen ceases after a reaction time of 1 hour. The α-chloro-β-(2-chloro-5-trifluoromethyl-phenyl)propionaldehyde is extracted by ether and washed in water. After drying and removal of the solvent the product is distilled at a reduced pressure. 135 g, corresponding to a 50% yield, of a slightly yellowish oil distilling between 98° and 100° C. at a pressure of 0.5 mm are obtained.

reactant | 2-chloro-5-trifluoromethylaniline | 1 mole, 195.5 g | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
reactant | NaNO2 | 75 g | N(=O)[O-].[Na+]
reactant | acrolein | 60 g | C(=O)C=C | C3H4O
reactant | HCl | 20 ml | Cl | ClH
reactant | HCl | 280 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
catalyst | CuCl | 1 g | Cl[Cu]
product | α-chloro-β-(2-chloro-5-trifluoromethylphenyl)propionaldehyde | 50% yield | ClC(C=O)CC1=C(C=CC(=C1)C(F)(F)F)Cl | C10H7Cl2F3O
